US06919331B2
1-[5-Cyclopropylaminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one was prepared by the same procedure as 1-[5-methylaminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one, except using cyclopropylamine.

reactant | 1-[5-methylaminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | CNCC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C25H33N5O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 1-[5-Cyclopropylaminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-3-isopropyl-1,3-dihydro-benzoimidazol-2-one | C1(CC1)NCC1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(C)C)=O)CCC(C)C)C=C1 | C27H35N5O
